### PR TITLE
Edits to Lists.lean

### PR DESCRIPTION
**Pull request by meluge**
I did an overall style fix following the past chapters. The comments are also all adapted for Lean. I tried addressing Daniel's comment by introducing the lemma needed for `member_add_same` theorem, but I'm not sure what that would be like if we refactor the type class introduction in this chapter.

### CODE REVIEW

File: LF/Lists.lean [hunk 1]
```diff
@@ -327,6 +302,22 @@ example : ([] : NatList) ++ [4, 5] = [4, 5] := by rfl
...
 example : [1, 2, 3] ++ ([] : NatList) = [1, 2, 3] := by rfl
 seal NatList.app
+
+/- TODO (OA): Experiment: introduce `BEq.refl` here, at the point where the `BEq` class is named. -/
+
+-- TERSE: ***
+/- FULL: The equality test `==` on `Nat`s is another example: it comes
+   from the `BEq` ("boolean equality") type class.  One small but handy
+   fact about it, which several proofs below will need, is that `==` is
+   reflexive:
```
Comment (chenson2018) [inline LF/Lists.lean:313]: The way that this is written might mislead the student to think it is inherent to `BEq`, which is not true: this additionally requires the `ReflBEq` typeclass. How crucial is it to have this early mention of typeclasses?

File: LF/Lists.lean [hunk 2]
```diff
@@ -1040,95 +1030,77 @@ theorem app_length (l1 l2 : NatList) :
...
+      theorem foo1 : ∀ n : Nat, ∀ l : NatList,
         myRepeat n 0 = l -> l.length = 0 -/
 
 -- HIDE
 theorem foo1 (n : Nat) (l : NatList) :
     myRepeat n 0 = l -> l.length = 0 := by
   intro h
-  rewrite [←h, repeat_zero, nil_length]
-  rfl
+  rw [←h, repeat_zero, nil_length]
```
Comment (chenson2018) [inline LF/Lists.lean]:
```suggestion
  rw [← h, repeat_zero, nil_length]
```

File: LF/Lists.lean [hunk 3]
```diff
@@ -1683,6 +1651,10 @@ def update (d : PartialMap) (x : MyId) (value : Nat) : PartialMap :=
 -- TERSE: ***
 -- TERSE: We can define functions on `PartialMap`s by pattern matching.
 
+/- TODO (OA): Everywhere else in this chapter we use `bif`,
```
Comment (chenson2018) [inline LF/Lists.lean]: Yes, I would just change to `bif` here.

File: LF/Lists.lean (hunk 1 above)
Comment (bcpierce00) [reply LF/Lists.lean:313]: Hopefully we can postpone it...

File: LF/Lists.lean [hunk 4]
```diff
@@ -808,9 +798,9 @@ theorem nil_app (l : NatList) : ([] : NatList) ++ l = l := by rw [NatList.nil_ap
 
 theorem tl_length_pred (l : NatList) :
     l.length.pred = l.tl.length := by
-  cases l
-  case nil => rw [tl_nil, nil_length]; dsimp
-  case cons n l' => rw [tl_cons, cons_length]; dsimp
+  cases l with
```
Comment (bcpierce00) [inline LF/Lists.lean:802]: Did we decide we're going to use the | syntax consistently throughout the book(s)?  (I'm fine with that.)

File: LF/Lists.lean [hunk 5]
```diff
@@ -872,10 +862,10 @@ theorem tl_length_pred (l : NatList) :
 
 theorem app_assoc (l1 l2 l3 : NatList) :
     (l1 ++ l2) ++ l3 = l1 ++ (l2 ++ l3) := by
-  induction l1
-  case nil =>
+  induction l1 with
```
Comment (bcpierce00) [inline LF/Lists.lean:866]: And we're committing to using this syntax consistenly?

File: LF/Lists.lean [hunk 6]
```diff
@@ -1040,95 +1030,77 @@ theorem app_length (l1 l2 : NatList) :
...
+    _Proof_: By induction on `l1`.
 
-    - First, suppose [l1 = []].  We must show
-[[
-        ([] ++ l2).length = [].length + l2.length,
-]]
-      which follows directly from the definitions of [length],
-      [++], and [add].
+    - First, suppose `l1 = []`.  We must show
+          `([] ++ l2).length = [].length + l2.length`,
```
Comment (bcpierce00) [inline LF/Lists.lean:1077]: What's the best Lean markup for a displayed equation?  This one is going to get squished into a paragraph with all the rest by default, but IMO it would look better as a separate display.

File: LF/Lists.lean [hunk 7]
```diff
@@ -1040,95 +1030,77 @@ theorem app_length (l1 l2 : NatList) :
...
+      which follows directly from the definitions of `length`,
+      `++`, and `+`.
 
-    - Next, suppose [l1 = n::l1'], with
-[[
-        (l1' ++ l2).length = l1'.length + l2.length
-]]
+    - Next, suppose `l1 = n::l1'`, with
+          `(l1' ++ l2).length = l1'.length + l2.length`
```
Comment (bcpierce00) [inline LF/Lists.lean:1082]: Same thing here, and probably some other places.  This whole proof is going to want typesetting.

File: LF/Lists.lean [hunk 8]
```diff
@@ -1040,95 +1030,77 @@ theorem app_length (l1 l2 : NatList) :
...
+        By the definition of `rev`, this follows from
+            `(l'.rev ++ [n]).length = .succ (l'.length)`,
         which, by the previous lemma, is the same as
-[[
-          l'.rev.length + [n].length = .succ (l'.length)
-]]
+            `l'.rev.length + [n].length = .succ (l'.length)`.
         This follows directly from the induction hypothesis and the
-        definition of [length]. [] -/
+        definition of `length`.  _Qed_. -/
```
Comment (bcpierce00) [inline LF/Lists.lean:1116]: Are we going to consistently write _Qed_ at the ends of proofs?  We need to decide on a convention.

File: LF/Lists.lean [hunk 9]
```diff
@@ -1570,9 +1538,9 @@ end NatList
 /- SOONER: NDS
    We would like to properly introduce the fact that multiple induction
    hypotheses may be available. We will be experimenting with introducing
-   it in [IndProp.v], but if it turns out to be unsatisfactory, we may want
+   it in \CHAP{IndProp}, but if it turns out to be unsatisfactory, we may want
```
Comment (bcpierce00) [inline LF/Lists.lean:1554]: We need a little Lean-hackery for chapter references.

**Comment by bcpierce00** [comment]
This looks great overall!  Let's try to get it merged soon (feel free to move pending discussions into inline comments in the text) so it doesn't block versifying the chapter.

File: LF/Lists.lean (hunk 4 above)
Comment (mwhicks1) [reply LF/Lists.lean:802]: Yes, it's in CONTRIBUTING.

File: LF/Lists.lean (hunk 5 above)
Comment (mwhicks1) [reply LF/Lists.lean:866]: Yes, also in CONTRIBUTING.

**Comment by mwhicks1** [comment]
@meluge Per Benjamin's comments: Please just fold his questions as comments into the file itself, prefaced by his GitHub ID. Then I'll approve the PR and we can merge it.

File: LF/Lists.lean (hunk 6 above)
Comment (mwhicks1) [reply LF/Lists.lean:1077]: Added to text.

File: LF/Lists.lean (hunk 8 above)
Comment (mwhicks1) [reply LF/Lists.lean:1116]: Added to file.

File: LF/Lists.lean (hunk 1 above)
Comment (mwhicks1) [reply LF/Lists.lean:313]: Noted in file.

**Review by mwhicks1 — APPROVED** [review]
Unresolved issues added as comments.
